US07459562B2
A) N-(4-(2-Chloropyrimidin-4-yloxy)-3-fluorophenyl)acetamide
A mixture of 2,4-dichloropyrimidine (Aldrich, 1.5 g, 10.0 mmol), N-(3-fluoro-4-hydroxyphenyl)acetamide (0.85 g, 5.0 mmol), K2CO3 (0.76 g, 5.5 mmol), and CH3CN (100 mL) was heated at reflux for 2 h. The mixture was concentrated and the residue partitioned between EtOAc and saturated NaHCO3 solution. The EtOAc phase was washed with sat NaHCO3 solution, brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography using a gradient form 30% EtOAc in hexanes to 100% EtOAc to give the title compound (1.1 g, 78%) as a white solid. 1H NMR (DMSO-d6) δ 10.22 (s, 1H), 8.63 (d, 1H, J=5.6 Hz), 7.74 (dd, 1H, J=12.6, 2.4 Hz), 7.34-7.26 (m, 3H), 2.01 (s, 3H).

reactant | 2,4-dichloropyrimidine | 10.0 mmol, 1.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | N-(3-fluoro-4-hydroxyphenyl)acetamide | 5.0 mmol, 0.85 g | FC=1C=C(C=CC1O)NC(C)=O | C8H8FNO2
reactant | K2CO3 | 5.5 mmol, 0.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | N-(4-(2-Chloropyrimidin-4-yloxy)-3-fluorophenyl)acetamide | 1.1 g, 78% | ClC1=NC=CC(=N1)OC1=C(C=C(C=C1)NC(C)=O)F | C12H9ClFN3O2
